US08957080B2
Into a 500 mL round-bottom flask, was placed a solution of (2,3-difluorophenyl)-boronic acid (30 g, 189.98 mmol, 1.00 equiv) in dichloromethane (250 mL). H2O2 (30 mL) was added dropwise with stirring. The resulting solution was stirred for 2 h at 25° C. The resulting mixture was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under vacuum to give 23 g (93%) of 2,3-difluorophenol as brown oil.

reactant | (2,3-difluorophenyl)-boronic acid | 189.98 mmol, 30 g, 1.00 equiv | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | H2O2 | 30 mL | OO | H2O2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2,3-difluorophenol | 23 g, 93% | FC1=C(C=CC=C1F)O | C6H4F2O
